US05306827
Preparation of 5-(p-Chlorophenyl)-4-[(difluoromethyl)thio]pyrrole-2-carboxylic acid
A solution of ethyl 5-(p-chlorophenyl)-4-[(difluoromethyl)thio]pyrrole-2-carboxylate (166 mg, 0.5 mmol) in ethanol is treated under nitrogen with a solution of sodium hydroxide (100 mg, 2.5 mmol) in water. The reaction mixture is refluxed for three hours, poured into ice-water, treated with hydrochloric acid and extracted with ethyl acetate. The combined organic extracts are washed with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain the title product as an orange solid (158 mg, mp 165° C. (dec)) which is identified by HNMR and CNMR spectral analyses.

reactant | ethyl 5-(p-chlorophenyl)-4-[(difluoromethyl)thio]pyrrole-2-carboxylate | 0.5 mmol, 166 mg | ClC1=CC=C(C=C1)C1=C(C=C(N1)C(=O)OCC)SC(F)F | C14H12ClF2NO2S
reactant | sodium hydroxide | 2.5 mmol, 100 mg | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-(p-Chlorophenyl)-4-[(difluoromethyl)thio]pyrrole-2-carboxylic acid | 158 mg | ClC1=CC=C(C=C1)C1=C(C=C(N1)C(=O)O)SC(F)F | C12H8ClF2NO2S
